US05665887
Into a 500-ml flask were placed 13.2 g of glycylglycine, 200 ml of methanol, 20 g of triethylamine, and 15 g of carbon disulfide. The contents were stirred at 30° C. for 1 hour. A solution of 12.3 g of ethyl chloroacetate in 50 ml of methanol was added thereto dropwise, and this mixture was stirred at room temperature for 30 minutes. The resulting solution assumed a yellowish orange color. After the solvent was distilled off under reduced pressure, 50 ml of ethanol was added to the residue, and a solution of 15 g of potassium acetate in 300 ml of ethanol was added thereto. The crystals precipitated were taken out by filtration and washed with ethanol to obtain 15.4 g of rhodanin-3-ylmethylcarbamoylacetic acid.

reactant | glycylglycine | 13.2 g | NCC(=O)NCC(=O)O | C4H8N2O3
reactant | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 15 g | C(=S)=S | CS2
reactant | ethyl chloroacetate | 12.3 g | ClCC(=O)OCC | C4H7ClO2
reactant | methanol | 50 ml | CO | CH4O
reactant | methanol | 200 ml | CO | CH4O
product | rhodanin-3-ylmethylcarbamoylacetic acid | 15.4 g | S1C(=S)N(C(=O)C1)CNC(=O)CC(=O)O | C7H8N2O4S2
